US04237054
A solution of methyl 4,4-ethylenedioxy-3-methyl-butanoate (63.2 g) in ether (200 ml) is added dropwise to a mixture of lithium alumnium hydride (13.8 g, 0.363 m) in ether (500 ml) at 0° C. under nitrogen. The resulting mixture is stirred for 2 hours, treated with 5% sodium bicarbonate solution (100 ml), allowed to warm to room temperature and filtered. The filtrate is dried (Na2SO4) and the solvent is evaporated in vacuo to give the crude product (26 g). This material is further purified by column chromatography on silica gel (300 g, 20% ethyl acetate in hexane) to give 4,4-ethylenedioxy-3-methyl-1-butanol as a colorless liquid (14.9 g).

reactant | methyl 4,4-ethylenedioxy-3-methyl-butanoate | 63.2 g | C1OC(C(CC(=O)OC)C)OC1 | C8H14O4
reactant | lithium | [Li] | Li
reactant | hydride | 13.8 g | [H-]
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 4,4-ethylenedioxy-3-methyl-1-butanol | 14.9 g | C1OC(C(CCO)C)OC1 | C7H14O3
